US05047416
B. 5-Acetonylthio-1,4-dimethyltetrazolium chloride
The 5-acetonylthio-1-methyltetrazole, prepared as above described, was dissolved in 20 ml of methylene chloride and to the resulting solution was added 0.617 gram (0.0055 mol) of methyl trifluoromethanesulfonate and the mixture allowed to stand overnight at room temperature. Thereafter, the solvent was vaporized off and an oily residue obtained. The latter was dissolved in aqueous methanol and the methanol solution passed over a Dowex-1 (Cl-) ion exchange column. The eluate from the column was evaporated to obtain a waxy material which was triturated with hexane to obtain a waxy solid which after drying in high vacuum amounted to 0.80 gram of 5-acetonylthio-1,4-dimethyltetrazolium chloride, m.p. 102°-104° C.

reactant | 5-acetonylthio-1-methyltetrazole | C(C(=O)C)SC1=NN=NN1C | C5H8N4OS
reactant | methyl trifluoromethanesulfonate | 0.0055 mol, 0.617 gram | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 5-Acetonylthio-1,4-dimethyltetrazolium chloride | [Cl-].C(C(=O)C)SC=1N(N=N[N+]1C)C | InChI=1S/C6H11N4OS.ClH/c1-5(11)4-12-6-9(2)7-8-10(6)3;/h4H2,1-3H3;1H/q+1;/p-1
